US09023858B2
E) 1-isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene
4-(2,2,2-Trifluoroethoxy)aniline (10 g) was dissolved in tetrahydrofuran (100 ml), 6M hydrochloric acid (9 ml) was added thereto, and the mixture was cooled to −5° C. A solution of thiophosgene (4.01 ml) in tetrahydrofuran (20 ml) was added dropwise thereto over 5 min, and the mixture was stirred at −5° C. for 10 min. Saturated aqueous sodium hydrogen carbonate solution (125 ml) was poured into the mixture, and the mixture was extracted twice with ethyl acetate (200 ml). The extracted layers were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the obtained brown crude product was purified by silica gel column chromatography, and the obtained pale-yellow solid was washed with hexane to give the title compound (10.7 g) as white crystals.

reactant | 4-(2,2,2-Trifluoroethoxy)aniline | 10 g | FC(COC1=CC=C(N)C=C1)(F)F | C8H8F3NO
reactant | hydrochloric acid | 6M, 9 ml | Cl | ClH
reactant | thiophosgene | 4.01 ml | C(=S)(Cl)Cl | CCl2S
reactant | sodium hydrogen carbonate | 125 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene | 10.7 g | N(=C=S)C1=CC=C(C=C1)OCC(F)(F)F | C9H6F3NOS
